* JSIM deck file generated with TimEx
* === DEVICE-UNDER-TEST ===
* Back-annotated simulation file written by InductEx v.6.0.4 on 12-3-21.
* Author: L. Schindler
* Version: 2.1
* Last modification date: 3 June 2021
* Last modification by: L. Schindler

* Copyright (c) 2018-2021 Lieze Schindler, Stellenbosch University

* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:

* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.

* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.

*For questions about the library, contact Lieze Schindler, lschindler@sun.ac.za

* The cell is not designed to be connected directly to passive transmission lines
*$Ports  a  clk  q
.subckt LSmitll_DFF   a clk q 
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param LP=0.2p
.param IC=2.5
.param Lptl=2p
.param LB=2p
.param BiasCoef=0.70
.param B1=IC
.param B2=IC/1.4
.param B3=IC
.param B4=IC
.param B5=IC/1.4
.param B6=IC
.param B7=IC
.param IB1=BiasCoef*Ic0*B1         
.param IB2=Ic0*Ic          
.param IB3=BiasCoef*Ic0*B6             
.param IB4=BiasCoef*Ic0*B7         
.param L1=Phi0/(4*IC*Ic0)               
.param L2=Phi0/(2*B1*Ic0)         
.param L3=Phi0/(B3*Ic0)       
.param L4=Phi0/(2*B6*Ic0)      
.param L5=Phi0/(4*IC*Ic0)     
.param L6=Phi0/(2*B4*Ic0)       
.param L7=Phi0/(4*B7*Ic0)         
.param LB1=LP            
.param LB2=LP           
.param LB3=LP           
.param LB4=LP         
.param LP1=LP         
.param LP3=LP          
.param LP4=LP         
.param LP6=LP          
.param LP7=LP          
.param RB1=B0Rs/B1       
.param RB2=B0Rs/B2       
.param RB3=B0Rs/B3          
.param RB4=B0Rs/B4         
.param RB5=B0Rs/B5         
.param RB6=B0Rs/B6          
.param RB7=B0Rs/B7
.param LRB1=(RB1/Rsheet)*Lsheet
.param LRB2=(RB2/Rsheet)*Lsheet
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet
.param LRB5=(RB5/Rsheet)*Lsheet
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 5 6 jjmit area=B3
B4 8 9 jjmit area=B4
B5 10 8 jjmit area=B5
B6 11 12 jjmit area=B6
B7 14 15 jjmit area=B7
IB1 0 3 pwl(0 0 5p IB1)
LB1 3 1 LB1
IB2 0 7 pwl(0 0 5p IB2)
LB2 7 5 LB2
IB3 0 13 pwl(0 0 5p IB3)
LB3 11 13 LB3
IB4 0 16 pwl(0 0 5p IB4)
LB4 16 14 LB4
L1 a 1 2.059E-12
L2 1 4 4.123E-12
L3 5 8 6.873E-12
L4 10 11 5.195E-12
L5 clk 11 2.071E-12
L6 8 14 3.287E-12
L7 14 q 2.066E-12
LP1        2         0         5.042E-13    
LP3        6         0         5.799E-13    
LP4        9         0         5.733E-13    
LP6        12         0          4.605E-13    
LP7        15         0         4.961E-13    
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 5 LRB2
RB3 5 105 RB3
LRB3 105 0 LRB3
RB4 8 108 RB4
LRB4 108 0 LRB4
RB5 10 110 RB5
LRB5 110 8 LRB5
RB6 11 111 RB6
LRB6 111 0 LRB6
RB7 14 114 RB7
LRB7 114 0 LRB7
.ends
* === SOURCE DEFINITION ===
.SUBCKT SOURCECELL  8 11
b1   1  2  jjmitll100 area=2.25
b2   3  4  jjmitll100 area=2.25
b3   5  6  jjmitll100 area=2.5
ib1  0  2  pwl(0 0 5p 275ua)
ib2  0  5  pwl(0 0 5p 175ua)
l1   8  7  1p
l2   7  0  3.9p
l3   7  1  0.6p
l4   2  3  1.1p
l5   3  5  4.5p
l6   5  11 2p
lp2  4  0  0.2p
lp3  6  0  0.2p
lrb1 9  2  1p
lrb2 10 4  1p
lrb3 12 6  1p
rb1  1  9  4.31
rb2  3  10 4.31
rb3  5  12 3.88
.model jjmitll100 jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.ENDS SOURCECELL
* === INPUT LOAD DEFINITION ===
.SUBCKT LOADINCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.2p
.param ic=2.5
.param lptl=2p
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b1*ic0)
.param l4=phi0/(4*b2*ic0)
.param rb1=2.743962
.param rb2=2.743962
.param lrb1=1.750339e-12
.param lrb2=1.750339e-12
.param lp1=lp
.param lp2=lp
b1 1 2 jjmit area=b1
b2 6 7 jjmit area=b2
ib1 0 5 pwl(0 0 5p ib1)
l1 a 1 l1
l2 1 4 l2
l3 4 6 l3
l4 6 q l4
lp1 2 0 lp1
lp2 7 0 lp2
lb1 5 4 lb1
rb1 1 3 rb1
rb2 6 8 rb2
lrb1 3 0 lrb1
lrb2 8 0 lrb2
.ENDS LOADINCELL
* === OUTPUT LOAD DEFINITION ===
.SUBCKT LOADOUTCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.2p
.param ic=2.5
.param lptl=2p
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b1*ic0)
.param l4=phi0/(4*b2*ic0)
.param rb1=2.743962
.param rb2=2.743962
.param lrb1=1.750339e-12
.param lrb2=1.750339e-12
.param lp1=lp
.param lp2=lp
b1 1 2 jjmit area=b1
b2 6 7 jjmit area=b2
ib1 0 5 pwl(0 0 5p ib1)
l1 a 1 l1
l2 1 4 l2
l3 4 6 l3
l4 6 q l4
lp1 2 0 lp1
lp2 7 0 lp2
lb1 5 4 lb1
rb1 1 3 rb1
rb2 6 8 rb2
lrb1 3 0 lrb1
lrb2 8 0 lrb2
.ENDS LOADOUTCELL
* === SINK DEFINITION ===
.SUBCKT SINKCELL  1
r1 1 0 2
.ENDS SINKCELL
* ===== MAIN =====
I_a 0 1 pwl(0 0 150p 0 153p 600u 156p 0 250p 0 253p 600u 256p 0 280p 0 283p 600u 286p 0 540p 0 543p 600u 546p 0 600p 0 603p 600u 606p 0 640p 0 643p 600u 646p 0 780p 0 783p 600u 786p 0)
XSOURCEINa SOURCECELL 1 2
XLOADINa LOADINCELL 2 3
I_clk 0 4 pulse(0 600u 20p 2p 2p 1p 100p)
XSOURCEINclk SOURCECELL 4 5
XLOADINclk LOADINCELL 5 6
XLOADOUTq LOADOUTCELL 7 8
XSINKOUTq SINKCELL 8
XDUT lsmitll_dff 3 6 7
.tran 0.025p 1000p 0
.print i(L1.XDUT) p(B1.XDUT) i(L5.XDUT) p(B6.XDUT) i(L7.XDUT) p(B7.XDUT)
.end
